US04290961
12.2 mg (2×10-5 moles) of [Ir(PPEI)COD]+ClO4- (+) were suspended in 50 ml of isopropanol and oxidized with air for 4 hours. The resulting yellow solution was then degasified at reflux for 20 minutes in a nitrogen flow and successively treated with 4.4 ml of a deaerated isopropanol solution of KOH (4 mg of KOH), effecting a preliminary reduction for 30 minutes at reflux in N2. 3.0 ml of deaerated isobutyrophenone was then added to the solution. After 120 minutes a conversion to phenylisopropylcarbinol (+) of 92.1% with an e.e. of 13% was obtained. Ratios:

reactant | ClO4- | Cl(=O)(=O)(=O)[O-]
reactant | KOH | 4 mg | [OH-].[K+]
reactant | isobutyrophenone | 3.0 ml | C(C(C)C)(=O)C1=CC=CC=C1 | C10H12O
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
solvent | N2 | N#N | N2
solvent | isopropanol | 4.4 ml | C(C)(C)O | C3H8O
product | phenylisopropylcarbinol | C1(=CC=CC=C1)C(O)C(C)C | C10H14O
